* File: AOI22.pex.sp.pex
* Created: Thu Nov 28 13:21:04 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI22%VSS 1 6 9 13 18 27 28
c49 1 0 1.04651e-19
r50 16 23 0.0175382
r51 16 18 0.210537
r52 13 28 10
r53 11 23 0.0306086
r54 11 13 1.2348
r55 10 21 0.0175382
r56 9 23 0.0175382
r57 9 10 1.55838
r58 6 27 10
r59 4 21 0.0306086
r60 4 6 1.2348
r61 1 21 15
.ends

.subckt PM_AOI22%OUT 3 6 7 12 18 19 21 23 26 28 30
c57 30 0 1.04651e-19
c58 28 0 0.0040916f
c59 26 0 0.00753607f
c60 21 0 0.005993f
c61 18 0 0.00594197f
r62 23 26 1.7
r63 20 26 0.0854933
r64 20 21 0.0775449
r65 18 26 0.0942369
r66 18 19 0.0775449
r67 15 28 30
r68 12 15 0.781098
r69 12 21 0.930711
r70 12 28 10
r71 8 19 0.14767
r72 6 8 0.0479332
r73 6 7 0.727896
r74 3 30 10
r75 1 7 0.0479332
r76 1 3 0.952085
.ends

.subckt PM_AOI22%NET8 3 9 10 14 19 20 23 29 30 32
r49 27 32 30
r50 23 27 0.781098
r51 23 32 10
r52 21 27 0.430381
r53 19 21 0.0479332
r54 19 20 1.57982
r55 17 30 30
r56 14 17 0.781098
r57 14 30 10
r58 12 20 0.0479332
r59 12 17 0.430381
r60 11 14 0.71212
r61 9 11 0.0479332
r62 9 10 1.60506
r63 6 29 30
r64 3 6 0.781098
r65 3 29 10
r66 1 10 0.0479332
r67 1 3 0.71212
.ends

.subckt PM_AOI22%VDD 1 6 14 17 21
r53 12 17 0.0175382
r54 12 14 1.38778
r55 10 21 30
r56 6 10 0.781098
r57 6 21 10
r58 4 17 0.0306086
r59 4 10 0.785955
r60 1 17 30
.ends

.subckt PM_AOI22%B 6 9 10 12 14 16 18 21 24
r43 21 24 25
r44 18 21 1.7
r45 11 24 1.76259
r46 11 12 6.47011
r47 9 24 2.0409
r48 9 10 6.47011
r49 6 16 92.2314
r50 6 12 32.281
r51 3 14 87.1074
r52 3 10 34.0231
.ends

.subckt PM_AOI22%A 6 9 10 12 14 16 18 21 24
r59 21 24 25
r60 18 21 1.7
r61 11 24 1.76259
r62 11 12 6.47011
r63 9 24 2.0409
r64 9 10 6.47011
r65 6 16 92.2314
r66 6 12 32.281
r67 3 14 87.1074
r68 3 10 34.0231
.ends

.subckt PM_AOI22%C 6 9 10 12 14 16 18 21 24
c56 24 0 0.00356515f
c57 21 0 0.00183783f
c58 18 0 8.22908e-20
c59 12 0 0.00280508f
c60 9 0 0.00280508f
r61 21 24 25
r62 18 21 1.7
r63 11 24 1.76259
r64 11 12 6.47011
r65 9 24 2.0409
r66 9 10 6.47011
r67 6 16 92.2314
r68 6 12 32.281
r69 3 14 87.1074
r70 3 10 34.0231
.ends

.subckt PM_AOI22%D 6 9 10 12 14 16 18 21 24
c34 24 0 0.00354993f
c35 21 0 0.00194042f
c36 18 0 8.25726e-20
c37 12 0 0.00279432f
c38 9 0 0.00279432f
r39 21 24 25
r40 18 21 1.7
r41 11 24 1.76259
r42 11 12 6.47011
r43 9 24 2.0409
r44 9 10 6.47011
r45 6 16 92.2314
r46 6 12 32.281
r47 3 14 87.1074
r48 3 10 34.0231
.ends

