* File: AOI12.pex.sp.pex
* Created: Thu Nov 28 13:10:09 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI12%VSS 1 6 9 13 18 27 28
c43 28 0 0.00286447f
c44 13 0 3.80898e-19
c45 1 0 1.04651e-19
r46 16 23 0.0175382
r47 16 18 0.318174
r48 13 28 10
r49 11 23 0.0306086
r50 11 13 1.2348
r51 10 21 0.0175382
r52 9 23 0.0175382
r53 9 10 1.09939
r54 6 27 10
r55 4 21 0.0306086
r56 4 6 1.2348
r57 1 21 15
.ends

.subckt PM_AOI12%OUT 3 6 7 12 18 19 21 23 26 28 29
c47 29 0 1.04651e-19
c48 28 0 0.0040916f
c49 26 0 0.00831758f
c50 21 0 0.00636363f
c51 18 0 0.0063126f
c52 12 0 8.54309e-21
r53 23 26 1.7
r54 20 26 0.0854933
r55 20 21 0.0775449
r56 18 26 0.0942369
r57 18 19 0.0775449
r58 15 28 30
r59 12 15 0.781098
r60 12 21 0.930711
r61 12 28 10
r62 8 19 0.14767
r63 6 8 0.0479332
r64 6 7 0.727896
r65 3 29 10
r66 1 7 0.0479332
r67 1 3 0.952085
.ends

.subckt PM_AOI12%NET7 3 9 10 13 19 20
r35 16 20 30
r36 13 16 0.781098
r37 13 20 10
r38 11 13 0.714063
r39 9 11 0.0479332
r40 9 10 1.60675
r41 6 19 30
r42 3 6 0.781098
r43 3 19 10
r44 1 10 0.0479332
r45 1 3 0.714063
.ends

.subckt PM_AOI12%VDD 1 6 14 17 21
c44 6 0 8.54309e-21
r45 12 17 0.0175382
r46 12 14 1.03644
r47 10 21 30
r48 6 10 0.781098
r49 6 21 10
r50 4 17 0.0306086
r51 4 10 0.785955
r52 1 17 30
.ends

.subckt PM_AOI12%C 6 9 10 12 14 16 18 21 24
r43 21 24 25
r44 18 21 1.7
r45 11 24 1.76259
r46 11 12 6.47011
r47 9 24 2.0409
r48 9 10 6.47011
r49 6 16 92.2314
r50 6 12 32.281
r51 3 14 87.1074
r52 3 10 34.0231
.ends

.subckt PM_AOI12%B 6 9 10 12 14 16 18 21 24
r59 21 24 25
r60 18 21 1.7
r61 11 24 1.76259
r62 11 12 6.47011
r63 9 24 2.0409
r64 9 10 6.47011
r65 6 16 92.2314
r66 6 12 32.281
r67 3 14 87.1074
r68 3 10 34.0231
.ends

.subckt PM_AOI12%A 6 9 10 12 14 16 18 21 24
c57 24 0 0.00356515f
c58 21 0 0.00183783f
c59 18 0 8.22908e-20
c60 12 0 0.00280508f
c61 9 0 0.00280508f
r62 21 24 25
r63 18 21 1.7
r64 11 24 1.76259
r65 11 12 6.47011
r66 9 24 2.0409
r67 9 10 6.47011
r68 6 16 92.2314
r69 6 12 32.281
r70 3 14 87.1074
r71 3 10 34.0231
.ends

