* File: INV.pex.sp.pex
* Created: Thu Nov 28 13:26:52 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV%VSS 1 6 11 19
r19 9 14 0.0175382
r20 9 11 0.781897
r21 6 19 10
r22 4 14 0.0306086
r23 4 6 1.2348
r24 1 14 30
.ends

.subckt PM_INV%OUT 3 8 14 17 19 22 24 25
c28 25 0 0.00286939f
c29 24 0 0.00409539f
c30 22 0 0.00849442f
c31 17 0 0.00647242f
c32 14 0 0.00647242f
r33 19 22 1.7
r34 16 22 0.0845218
r35 16 17 0.0883397
r36 14 22 0.0932654
r37 14 15 0.0883397
r38 11 24 30
r39 8 11 0.781098
r40 8 17 0.930711
r41 8 24 10
r42 3 15 1.18719
r43 3 25 10
.ends

.subckt PM_INV%VDD 1 6 14 21
r19 12 17 0.0175382
r20 12 14 0.612655
r21 10 21 30
r22 6 10 0.781098
r23 6 21 10
r24 4 17 0.0306086
r25 4 10 0.785955
r26 1 17 30
.ends

.subckt PM_INV%IN 6 9 10 12 14 16 18 21 24
c36 24 0 0.00355148f
c37 21 0 0.00194f
c38 12 0 0.00279432f
c39 9 0 0.00279432f
r40 21 24 25
r41 18 21 1.7
r42 11 24 1.76259
r43 11 12 6.47011
r44 9 24 2.0409
r45 9 10 6.47011
r46 6 16 92.2314
r47 6 12 32.281
r48 3 14 87.1074
r49 3 10 34.0231
.ends

