* File: NAND3.pex.sp.pex
* Created: Thu Nov 28 13:58:05 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND3%OUT 3 10 16 20 26 27 29 30 32 35 37 38 40
c63 40 0 0.00286405f
c64 37 0 0.0040916f
c65 35 0 0.00829993f
c66 29 0 0.00635483f
c67 26 0 0.00676214f
r68 32 35 1.7
r69 28 35 0.0854933
r70 28 29 0.0775449
r71 26 35 0.0942369
r72 26 27 0.0775449
r73 23 38 30
r74 20 23 0.781098
r75 20 38 10
r76 18 20 1.39412
r77 17 30 0.00944082
r78 16 18 0.0479332
r79 16 17 1.56855
r80 13 37 30
r81 10 13 0.781098
r82 10 29 0.930711
r83 10 37 10
r84 6 30 0.0363272
r85 6 27 0.14767
r86 3 40 10
r87 1 30 0.0363272
r88 1 3 0.952085
.ends

.subckt PM_NAND3%VSS 1 6 11 14 19
c35 1 0 1.84838e-19
r36 9 14 0.0175382
r37 9 11 0.210537
r38 6 19 10
r39 4 14 0.0306086
r40 4 6 1.2348
r41 1 14 30
.ends

.subckt PM_NAND3%VDD 1 6 12 16 24 26 31 33
r45 22 28 0.0175382
r46 22 24 0.076775
r47 20 33 30
r48 16 20 0.781098
r49 16 33 10
r50 14 28 0.0306086
r51 14 20 0.785955
r52 13 26 0.0175382
r53 12 28 0.0175382
r54 12 13 0.82793
r55 10 31 30
r56 6 10 0.781098
r57 6 31 10
r58 4 26 0.0306086
r59 4 10 0.785955
r60 1 26 15
.ends

.subckt PM_NAND3%A 6 9 10 12 14 16 19 21 24
c52 24 0 0.00363305f
c53 21 0 8.42937e-20
c54 19 0 0.00184921f
c55 12 0 0.00285978f
c56 9 0 0.00285978f
r57 19 24 25
r58 19 21 1.7
r59 11 24 1.76259
r60 11 12 6.47011
r61 9 24 2.0409
r62 9 10 6.47011
r63 6 16 92.2314
r64 6 12 32.281
r65 3 14 87.1074
r66 3 10 34.0231
.ends

.subckt PM_NAND3%B 6 9 10 12 14 16 19 21 24
c47 19 0 1.84838e-19
r48 19 24 25
r49 19 21 1.7
r50 11 24 1.76259
r51 11 12 6.47011
r52 9 24 2.0409
r53 9 10 6.47011
r54 6 16 92.2314
r55 6 12 32.281
r56 3 14 87.1074
r57 3 10 34.0231
.ends

.subckt PM_NAND3%C 6 9 10 12 14 16 19 21 24
r32 19 24 25
r33 19 21 1.7
r34 11 24 1.76259
r35 11 12 6.47011
r36 9 24 2.0409
r37 9 10 6.47011
r38 6 16 92.2314
r39 6 12 32.281
r40 3 14 87.1074
r41 3 10 34.0231
.ends

