* File: NAND4.pex.sp.pex
* Created: Thu Nov 28 14:05:14 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND4%OUT 3 10 16 20 26 30 36 37 39 40 41 43 46 48 49 51 52
c90 52 0 0.00286405f
c91 48 0 0.0040916f
c92 46 0 0.00829993f
c93 39 0 0.00635483f
c94 36 0 0.00676214f
r95 43 46 1.7
r96 38 46 0.0854933
r97 38 39 0.0775449
r98 36 46 0.0942369
r99 36 37 0.0775449
r100 33 51 30
r101 30 33 0.781098
r102 30 51 10
r103 28 30 1.79781
r104 27 41 0.0363272
r105 26 28 0.0479332
r106 26 27 1.76355
r107 23 49 30
r108 20 23 0.781098
r109 20 49 10
r110 18 41 0.00944082
r111 18 20 1.79781
r112 17 40 0.00944082
r113 16 41 0.0363272
r114 16 17 1.43324
r115 13 48 30
r116 10 13 0.781098
r117 10 39 0.930711
r118 10 48 10
r119 6 40 0.0363272
r120 6 37 0.14767
r121 3 52 10
r122 1 40 0.0363272
r123 1 3 0.952085
.ends

.subckt PM_NAND4%VSS 1 6 11 14 19
r46 9 14 0.0175382
r47 9 11 0.210537
r48 6 19 10
r49 4 14 0.0306086
r50 4 6 1.2348
r51 1 14 30
.ends

.subckt PM_NAND4%VDD 1 6 12 16 24 27 32 34
r58 22 29 0.0175382
r59 22 24 0.477262
r60 20 34 30
r61 16 20 0.781098
r62 16 34 10
r63 14 29 0.0306086
r64 14 20 0.785955
r65 13 27 0.0175382
r66 12 29 0.0175382
r67 12 13 0.702692
r68 10 32 30
r69 6 10 0.781098
r70 6 32 10
r71 4 27 0.0306086
r72 4 10 0.785955
r73 1 27 15
.ends

.subckt PM_NAND4%A 6 9 10 12 14 16 19 21 24
c52 24 0 0.00363305f
c53 21 0 8.42937e-20
c54 19 0 0.00184921f
c55 12 0 0.00285978f
c56 9 0 0.00285978f
r57 19 24 25
r58 19 21 1.7
r59 11 24 1.76259
r60 11 12 6.47011
r61 9 24 2.0409
r62 9 10 6.47011
r63 6 16 92.2314
r64 6 12 32.281
r65 3 14 87.1074
r66 3 10 34.0231
.ends

.subckt PM_NAND4%B 6 9 10 12 14 16 19 21 24
r52 19 24 25
r53 19 21 1.7
r54 11 24 1.76259
r55 11 12 6.47011
r56 9 24 2.0409
r57 9 10 6.47011
r58 6 16 92.2314
r59 6 12 32.281
r60 3 14 87.1074
r61 3 10 34.0231
.ends

.subckt PM_NAND4%C 6 9 10 12 14 16 19 21 24
r52 19 24 25
r53 19 21 1.7
r54 11 24 1.76259
r55 11 12 6.47011
r56 9 24 2.0409
r57 9 10 6.47011
r58 6 16 92.2314
r59 6 12 32.281
r60 3 14 87.1074
r61 3 10 34.0231
.ends

.subckt PM_NAND4%D 6 9 10 12 14 16 19 21 24
r48 19 24 25
r49 19 21 1.7
r50 11 24 1.76259
r51 11 12 6.47011
r52 9 24 2.0409
r53 9 10 6.47011
r54 6 16 92.2314
r55 6 12 32.281
r56 3 14 87.1074
r57 3 10 34.0231
.ends

