* File: XOR2.pex.sp.pex
* Created: Thu Nov 28 15:03:04 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR2%VSS 1 6 9 13 16 20 25 35 36 38
c64 1 0 2.09303e-19
r65 23 31 0.0175382
r66 23 25 0.20986
r67 20 38 10
r68 18 31 0.0306086
r69 18 20 1.2348
r70 17 29 0.0175382
r71 16 31 0.0175382
r72 16 17 1.19417
r73 13 36 10
r74 11 29 0.0306086
r75 11 13 1.2348
r76 10 27 0.0175382
r77 9 29 0.0175382
r78 9 10 0.632287
r79 6 35 10
r80 4 27 0.0306086
r81 4 6 1.2348
r82 1 29 10
.ends

.subckt PM_XOR2%Z 4 7 10 12 14 17 23 24 27 30 32 35 38 40 41 44
c98 41 0 1.04651e-19
r99 38 44 25
r100 35 38 1.7
r101 33 38 0.309913
r102 31 32 0.0363272
r103 30 33 0.0509397
r104 30 31 0.680288
r105 27 41 10
r106 25 32 0.00944082
r107 25 27 0.952085
r108 23 32 0.0363272
r109 23 24 0.528695
r110 20 40 30
r111 17 20 0.781098
r112 17 40 10
r113 15 24 0.0479332
r114 15 17 1.39412
r115 9 44 1.76259
r116 9 10 6.47011
r117 8 44 9.52419
r118 7 12 87.1074
r119 7 8 8.70735
r120 4 14 92.2314
r121 4 10 32.281
.ends

.subckt PM_XOR2%OUT 3 6 7 12 18 19 21 23 26 28 30
c58 30 0 1.04651e-19
c59 28 0 0.0040916f
c60 26 0 0.00806849f
c61 21 0 0.00626835f
c62 18 0 0.00621732f
r63 23 26 1.7
r64 20 26 0.0854933
r65 20 21 0.0775449
r66 18 26 0.0942369
r67 18 19 0.0775449
r68 15 28 30
r69 12 15 0.781098
r70 12 21 0.930711
r71 12 28 10
r72 8 19 0.14767
r73 6 8 0.0479332
r74 6 7 0.739171
r75 3 30 10
r76 1 7 0.0479332
r77 1 3 0.952085
.ends

.subckt PM_XOR2%VDD 1 6 14 17 21
r54 12 17 0.0175382
r55 12 14 1.39794
r56 10 21 30
r57 6 10 0.781098
r58 6 21 10
r59 4 17 0.0306086
r60 4 10 0.785955
r61 1 17 30
.ends

.subckt PM_XOR2%NET15 3 9 10 13 19 21
r27 17 21 30
r28 13 17 0.781098
r29 13 21 10
r30 11 17 0.430381
r31 9 11 0.0479332
r32 9 10 1.57982
r33 7 19 30
r34 3 7 0.781098
r35 3 19 10
r36 1 10 0.0479332
r37 1 7 0.430381
.ends

.subckt PM_XOR2%B 2 6 9 10 12 14 17 18 20 22 24 26 28 31 33 36
c75 14 0 0.00818862f
r76 31 36 25
r77 31 33 1.7
r78 19 36 1.76259
r79 19 20 6.47011
r80 17 36 2.0409
r81 17 18 6.47011
r82 14 28 92.2314
r83 13 26 87.1074
r84 13 14 99.6099
r85 12 26 87.1074
r86 11 12 26.8496
r87 9 11 3.46412
r88 9 10 236.112
r89 6 24 92.2314
r90 6 20 32.281
r91 3 22 87.1074
r92 3 18 34.0231
r93 2 22 87.1074
r94 1 10 3.46412
r95 1 2 26.8496
.ends

.subckt PM_XOR2%A 4 6 7 8 14 16 17 18 20 22 24 26 28 30 33 36
c99 36 0 0.00356515f
c100 33 0 0.00183783f
c101 30 0 8.22908e-20
c102 20 0 0.00280508f
c103 17 0 0.00280508f
r104 33 36 25
r105 30 33 1.7
r106 19 36 1.76259
r107 19 20 6.47011
r108 17 36 2.0409
r109 17 18 6.47011
r110 15 28 92.2314
r111 15 16 26.8496
r112 14 28 92.2314
r113 14 20 32.281
r114 11 26 87.1074
r115 11 18 34.0231
r116 7 16 3.46412
r117 7 8 98.5851
r118 6 8 3.46412
r119 5 24 92.2314
r120 5 6 26.8496
r121 4 24 92.2314
r122 3 22 87.1074
r123 3 4 99.6099
.ends

