* File: INV.pex.netlist
* Created: Mon Mar 24 01:50:42 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* 
.include "INV.pex.netlist.pex"
.subckt INV  GND! VDD! IN OUT
* 
* OUT	OUT
* IN	IN
* VDD!	VDD!
* GND!	GND!
MM0 N_OUT_MM0_d N_IN_MM0_g N_GND!_MM0_s N_GND!_MM0_b NMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
MM1 N_OUT_MM1_d N_IN_MM1_g N_VDD!_MM1_s N_VDD!_MM1_b PMOS_RVT L=2e-08 W=1.08e-07
+ NFIN=4
*
.include "INV.pex.netlist.INV.pxi"
*
.ends
*
*
