* File: INV.pex.netlist.pex
* Created: Mon Mar 24 01:50:42 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 27C
* 
.subckt PM_INV%GND! 24 34 57
c0 19 0 0.0179859f
r1 57 61 3.95062
r2 52 61 22.2469
r3 48 52 6.66667
r4 45 61 2.99177
r5 45 48 1.66667
r6 19 52 12.142
r7 19 34 66.0268
r8 12 45 13.8086
r9 12 24 71.5823
r10 5 48 2.27662
r11 5 19 138.187
r12 5 12 69.3091
.ends

.subckt PM_INV%VDD! 29 34 57
c0 21 0 0.0179756f
r1 57 61 3.95062
r2 52 61 22.2469
r3 48 52 6.66667
r4 45 61 2.99177
r5 45 48 1.66667
r6 21 52 12.142
r7 21 34 66.0268
r8 13 45 13.8086
r9 13 29 71.5823
r10 5 48 2.27662
r11 5 13 69.3091
r12 5 21 138.187
.ends

.subckt PM_INV%IN 6 7 24
c0 7 0 0.00208075f
r1 2 24 24.3302
r2 2 7 310.982
r3 2 6 310.982
.ends

.subckt PM_INV%OUT 13 17 45
c0 17 0 0.00884427f
r1 24 45 18.321
r2 17 24 54.7959
r3 13 24 54.7959
.ends

